US05872115
Step 4): Sodium cyanoborohydride (0.06 g, 9.5 mmol) was added to solution of 2-[2-(4-oxopiperidin-1-yl)ethyl]thio-4,5-diphenylimidazole (0.34 g, 0.91 mmol), powdered 3A molecular sieves (0.268 g) and ammonium acetate (0.73 g, 9.5 mmol) in methanol (10 ml). The mixture was stirred at room temperature under nitrogen atmosphere for 65 hours and then filtered and washed with methanol. The filtrate was concentrated. The residue was dissolved in 10% NaOH solution and ethyl acetate. The organic layer was washed with water and saturated NaCl solution, dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (0.8% NH4OH in chloroform/methanol) to give 2-[2-(4-aminopiperidin-1-yl)ethyl]thio-4,5-diphenylimidazole (172 mg, 49.9%) as a pale yellow oil.

reactant | Sodium cyanoborohydride | 9.5 mmol, 0.06 g | C(#N)[BH3-].[Na+]
reactant | 2-[2-(4-oxopiperidin-1-yl)ethyl]thio-4,5-diphenylimidazole | 0.91 mmol, 0.34 g | O=C1CCN(CC1)CCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H23N3OS
reactant | ammonium acetate | 9.5 mmol, 0.73 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-[2-(4-aminopiperidin-1-yl)ethyl]thio-4,5-diphenylimidazole | 172 mg, 49.9% | NC1CCN(CC1)CCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H26N4S
